US07737166B2
tert-Butyl N-(4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazol-2-yl)-β-alaninate (I-278)
With cooling with ice, tert-butyl 3-aminopropionate hydrochloride (230 mg, 1.26 mmol) and diisopropylethylamine (430 μl, 2.53 mmol) were added to a dichloromethane (10 ml) solution of 2-chloro-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-cabonitrile (I-130) (302 mg, 1.05 mmol), followed by stirring at room temperature for 1 hour. The reaction liquid was cooled to room temperature, then ethyl acetate was added, and followed by washing with saturated brine. After drying over anhydrous sodium sulfate, the insoluble matter was separated by filtration, and the residue obtained by concentration was purified by silica gel column chromatography (eluent, n-hexane:ethyl acetate=4:1→1:1, v/v) to obtain the entitled compound (402 mg, 97%) as a white solid.

reactant | tert-butyl 3-aminopropionate hydrochloride | 1.26 mmol, 230 mg | Cl.NCCC(=O)OC(C)(C)C
reactant | diisopropylethylamine | 2.53 mmol, 430 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
reactant | 2-chloro-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-cabonitrile | 1.05 mmol, 302 mg | ClC=1OC=2C(N1)=C(C(=C(C2F)C2=CC=CC=C2)C)C#N | C15H8ClFN2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl N-(4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazol-2-yl)-β-alaninate | 402 mg, 97% | C(#N)C1=C(C(=C(C2=C1N=C(O2)NCCC(=O)OC(C)(C)C)F)C2=CC=CC=C2)C | C22H22FN3O3
